US07763629B2
Method J: (R)-5-cyclopentyl-N-cyclopropyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine (I-26)
(R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine (70 mg, 0.23 mmol), cyclopropylamine (0.5 ml, 7.18 mmol), DIPEA (0.16 ml, 0.918 mmol) in nBuOH (2 ml) were heated in a sealed tube in the microwave at 140° C. for 90 minutes. The reaction mixture was concentrated in vacuo, and purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 □M, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min] to afford the title compound as an off-white powder. The free base was generated using a bicarbonate resin, and was freeze-dried to give the title compound as a colourless solid (25.6 mg, 34% yield)

reactant | (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine | 0.23 mmol, 70 mg | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=NN3)CC)C3CCCC3 | C14H17ClN6
reactant | cyclopropylamine | 7.18 mmol, 0.5 ml | C1(CC1)N | C3H7N
reactant | DIPEA | 0.918 mmol, 0.16 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 2 ml | C(CCC)O | C4H10O
product | (R)-5-cyclopentyl-N-cyclopropyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)NC1CC1)C=NN2)CC | C17H23N7
